US07166648B2
48.3 g of 3-acetyl-4-oxo-pentanoic acid ethyl ester, 41 g of iodo-methane, 34 g of potassium carbonate, and 90 ml of acetone were mixed and refluxed for 9 hours. After cooling, 100 ml of petroleum ether was added, and the solid was filtered off and washed with acetone and petroleum ether. Fractional distillation yielded 33.4 g of 3-acetyl-3-methyl-4-oxo-pentanoic acid ethyl ester (boiling point: 69° C./0.02 mbar; purity: 97%; colorless).

reactant | 3-acetyl-4-oxo-pentanoic acid ethyl ester | 48.3 g | C(C)OC(CC(C(C)=O)C(C)=O)=O | C9H14O4
reactant | iodo-methane | 41 g | IC | CH3I
reactant | potassium carbonate | 34 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 90 ml | CC(=O)C | C3H6O
product | 3-acetyl-3-methyl-4-oxo-pentanoic acid ethyl ester | 33.4 g | C(C)OC(CC(C(C)=O)(C)C(C)=O)=O | C10H16O4
